US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(8-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-5-yloxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylicacid Octylamide
4-(4-{2-[((2S)-3-{[8-(Benzyloxy)-2-oxo-1,2,3,4-tetrahydro-5-quinolinyl]oxy}-2-hydroxypropyl)amino]ethyl}anilino)-N-octyl-1-piperidinecarboxamide (0.16 g, 0.228 mmol) was dissolved in ethanol and 10% palladium on carbon (0.07 g) added. The solution was shaken in a Parr apparatus at 50 psi hydrogen atmosphere for 4 hours, filtered through a Celite pad and the solvent removed in vacuo. The residue was purified by flash silica gel chromatography on silica gel Merck-60 to yield the title compound (0.05 g, 0.082 mmol).

reactant | 4-(4-{2-[((2S)-3-{[8-(Benzyloxy)-2-oxo-1,2,3,4-tetrahydro-5-quinolinyl]oxy}-2-hydroxypropyl)amino]ethyl}anilino)-N-octyl-1-piperidinecarboxamide | 0.228 mmol, 0.16 g | C(C1=CC=CC=C1)OC=1C=CC(=C2CCC(NC12)=O)OC[C@H](CNCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)O | C41H57N5O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 0.07 g | [Pd] | Pd
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(8-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-5-yloxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylicacid Octylamide | 0.082 mmol, 0.05 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=C2CCC(NC2=C(C=C1)O)=O)O | C34H51N5O5
